US07442839B2
i) (5R)-3-(6-{4-[3-(Cyclopentylsulfonyl)phenyl]butoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one
3-Chloroperoxybenzoic acid (0.088 g) was added to a stirred, cooled (ice-bath) solution of (5R)-3-(6-{4-[3-(cyclopentylsulfinyl)phenyl]butoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (0.097 g) in DCM (10 ml). The solution was stirred for 0.5 h at room temperature. The solution was diluted with DCM and washed with 2N NaOH solution, water, dried (Na2SO4) and evaporated to give the title compound (0.085 g)

reactant | 3-Chloroperoxybenzoic acid | 0.088 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | (5R)-3-(6-{4-[3-(cyclopentylsulfinyl)phenyl]butoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 0.097 g | C1(CCCC1)S(=O)C=1C=C(C=CC1)CCCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C34H47NO6S
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (5R)-3-(6-{4-[3-(Cyclopentylsulfonyl)phenyl]butoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 0.085 g | C1(CCCC1)S(=O)(=O)C=1C=C(C=CC1)CCCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C34H47NO7S
